US04621084
A solution of 5-(2-bromopropionyl)-2-benzothiazolinone (2.9 g) and 2-aminopyrimidine (2.9 g) in acetonitrile (100 ml) was refluxed for 15 hours with stirring. The reaction mixture was cooled to ambient temperature to give a precipitate, which was collected by filtration. The precipitate was added to a mixture of water and ethyl acetate and the resulting mixture was adjusted to pH 8.0 with 20% aqueous potassium carbonate solution. The precipitate was collected by filtration, washed successively with water and ethanol and dried over phosphorus pentoxide to give 5-(3-methylimidazo-[1,2-a]pyrimidin-2-yl)-2-benzothiazolinone (1.45 g).

reactant | 5-(2-bromopropionyl)-2-benzothiazolinone | 2.9 g | BrC(C(=O)C=1C=CC2=C(NC(S2)=O)C1)C | C10H8BrNO2S
reactant | 2-aminopyrimidine | 2.9 g | NC1=NC=CC=N1 | C4H5N3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-(3-methylimidazo-[1,2-a]pyrimidin-2-yl)-2-benzothiazolinone | 1.45 g | CC1=C(N=C2N1C=CC=N2)C=2C=CC1=C(NC(S1)=O)C2 | C14H10N4OS
